US09303045B2
Step 3: 1-(1,1,1-Trifluoro-2-methylpropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
4-Methylbenzenesulfonic acid (10.57 mg, 0.061 mmol) was added in one portion to a solution of 5-amino-1-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrrole-3-carbonitrile (133.3 mg, 0.614 mmol) and 1,1,3,3-tetramethoxypropane (111 μl, 0.675 mmol) in toluene (1227 μl) at RT. The mixture was heated at 100° C. for 1 h and purified directly by HPLC to afford the title compound as a brown solid.

reactant | 4-Methylbenzenesulfonic acid | 0.061 mmol, 10.57 mg | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | 5-amino-1-(1,1,1-trifluoro-2-methylpropan-2-yl)-1H-pyrrole-3-carbonitrile | 0.614 mmol, 133.3 mg | NC1=CC(=CN1C(C(F)(F)F)(C)C)C#N | C9H10F3N3
reactant | 1,1,3,3-tetramethoxypropane | 0.675 mmol, 111 μl | COC(CC(OC)OC)OC | C7H16O4
solvent | toluene | 1227 μl | C1(=CC=CC=C1)C | C7H8
product | 1-(1,1,1-Trifluoro-2-methylpropan-2-yl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | FC(C(C)(C)N1C=C(C=2C1=NC=CC2)C#N)(F)F | C12H10F3N3
